US06972295B2
Step B 2-(2-Methoxyphenyloxy)propenoic Acid.
To a solution of methyl 2-(2-methoxyphenyloxy)propenoate (0.30 g, 1.4 mmol) in THF (30 mL) and water (30 mL) was added lithium hydroxide monohydrate 0.17 g, 4.0 mmol). After stirring at room temperature overnight, the reaction was quenched by addition of concentrated hydrochloric acid (final pH=2), and the product was extracted with EtOAc (3×100 mL). The combined extracts were dried over anhydrous sodium sulfate, filtered, and concentrated to dryness to give the title compound. 1H NMR (500 MHz, CD3OD): δ 7.42 (ddd, 1H), 7.22 (dd, 1H), 7.10 (dd, 1H), 6.97 (ddd, 1H), 5.48 (d, 1H), 4.51 (d, 1H), 3.64 (s, 3H).

reactant | methyl 2-(2-methoxyphenyloxy)propenoate | 1.4 mmol, 0.30 g | COC1=C(C=CC=C1)OC(C(=O)OC)=C | C11H12O4
reactant | lithium hydroxide monohydrate | 4.0 mmol, 0.17 g | O.[OH-].[Li+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 2-(2-Methoxyphenyloxy)propenoic Acid | COC1=C(C=CC=C1)OC(C(=O)O)=C | C10H10O4
